US08791142B2
Step 4: 2-(((5-(5-(2-(methoxymethyl)-2′-methylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl)pyridin-2-yl)methyl)(methyl)amino)acetic acid
To tert-butyl N-[(5-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}pyridin-2-yl)methyl]-N-methylglycinate (0.550 g; 1.07 mmol) was added HCl solution in dioxan (4 M; 15 mL) and the reaction mixture stirred at ambient temperature for 2 hours and at 80° C. for 1 hour. The reaction mixture was allowed to cool and the suspension was filtered. The solid was washed with ether and dried under vacuum. The residue was triturated with DCM to afford the title compound as an off-white solid (0.420 g, 74%). 1H NMR (DMSO-d6/D2O, 400 MHz) δ 9.31 (1 H, s), 8.58-8.55 (1 H, dd, J=8, 2 Hz), 8.30 (1 H, J=2 Hz), 8.19-8.16 (1 H, m), 7.77 (1 H, d, J=7.6 Hz), 7.42-7.26 (4 H, m), 7.11-7.10 (1 H, m), 4.65 (2 H, s), 4.26-4.12 (4 H, m), 3.21 (3 H, s), 2.92 (3 H, s), 2.00 (3 H, s). LC/MS: 459 (M+H)+. HPLC (Method D) Rt 8.60 min (Purity: 98.5%).

reactant | tert-butyl N-[(5-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}pyridin-2-yl)methyl]-N-methylglycinate | 1.07 mmol, 0.550 g | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=CC(=NC1)CN(CC(=O)OC(C)(C)C)C)C1=C(C=CC=C1)C | C30H34N4O4
reactant | HCl | Cl | ClH
solvent | dioxan | 4 M, 15 mL | O1CCOCC1 | C4H8O2
product | 2-(((5-(5-(2-(methoxymethyl)-2′-methylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl)pyridin-2-yl)methyl)(methyl)amino)acetic acid | 0.420 g, 74% | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=CC(=NC1)CN(CC(=O)O)C)C1=C(C=CC=C1)C | C26H26N4O4
